US08304419B2
Step D: 3-Bromo-5-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxylic acid
LiOH (1 N in water, 4 mL, 4 mmol) was added to a solution of ethyl 3-bromo-5-[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]-1H-indole-2-carboxylate (0.121 g, 0.275 mmol) in THF (4 mL) and methanol (4 mL). The solution was stirred at room temp overnight. The reaction mixture was evaporated to a residue and partitioned between EtOAc and 1 N HCl. The organic layer was separated, dried over MgSO4, and evaporated to a crude solid to afford the title compound (0.081 g, 89%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.14-13.33 (m, 1H), 11.97 (s, 1H), 7.34 (d, 1H), 6.97 (dd, 1H), 6.86 (s, 1H), 4.83 (t, 1H), 3.99 (t, 2H), 3.71 (q, 2 H). LC-MS (ES+) m/z 301 [M+H].

reactant | LiOH | 4 mmol, 1 N, 4 mL | [Li+].[OH-]
reactant | ethyl 3-bromo-5-[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]-1H-indole-2-carboxylate | 0.275 mmol, 0.121 g | BrC1=C(NC2=CC=C(C=C12)OCCO[Si](C)(C)C(C)(C)C)C(=O)OCC | C19H28BrNO4Si
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
product | 3-Bromo-5-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxylic acid | 0.081 g, 89% | BrC1=C(NC2=CC=C(C=C12)OCCO)C(=O)O | C11H10BrNO4
